US04675186
Methyl p-Dimethylaminobenzoate
p-Dimethylaminobenzoic acid (50 g.) and concentrated H2SO4 (25 ml.) in 350 ml. methanol were refluxed 18 hours. The reaction mixture was cooled, quenched with ice and water (350 ml.), neutralized portionwise with KHCO3 until foaming ceased, and extracted 3×200 ml. CHCl3. The organic layers were combined, washed 1×150 ml. brine, dried (MgSO4) and reduced in volume to yield crystalline title product, 52 g.; 1H-nmr: 3.02 (s, 6H), 3.87 (s, 3H), 6.66 (d, J=16Hz, 2H), 7.95 (d, J=16Hz, 2H).

reactant | p-Dimethylaminobenzoic acid | 50 g | CN(C1=CC=C(C(=O)O)C=C1)C | C9H11NO2
reactant | H2SO4 | 25 ml | OS(=O)(=O)O | H2O4S
reactant | methanol | CO | CH4O
product | Methyl p-Dimethylaminobenzoate | CN(C1=CC=C(C(=O)OC)C=C1)C | C10H13NO2
